US07381719B2
Add 2-methylhydrocinnamic acid (18.4 mmol) to anhydrous tetrahydrofuran (100 mL) and cool to 0° C. Slowly add lithium aluminum hydride (2.20 g, 58.0 mmol) and remove the ice bath after 20 minutes. Stir at room temperature under nitrogen for 18 h. Cool the reaction to 0° C. and quench the reaction by slowly adding water (2.2 mL), 15% sodium hydroxide (2.2 mL), and water (6.6 mL). Filter off the aluminum salts. Add brine (100 mL) and 5 N sodium hydroxide (30 mL) to the filtrate and extract with ethyl acetate (3×100 mL). Dry the ethyl acetate extracts with magnesium sulfate, filter, and concentrate on a rotary evaporator to yield 2.65 g (96%) of 3-o-tolyl-propan-1-ol: 1H NMR (CDCl3): 7.18-7.10 (m, 4H), 3.72 (t, 2H), 2.72-2.69 (m, 2H), 2.33 (s, 3H), 1.90-1.83 (m, 2H), 1.60 (br s, 1H).

reactant | 2-methylhydrocinnamic acid | 18.4 mmol | CC1=C(CCC(=O)O)C=CC=C1 | C10H12O2
reactant | lithium aluminum hydride | 58.0 mmol, 2.20 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 3-o-tolyl-propan-1-ol | 2.65 g, 96% | C1(=C(C=CC=C1)CCCO)C | C10H14O
